US04524071
A. 3(3-Quinolinyl)propanoic acid, ethyl ester
A solution 3-(3-quinolinyl)propanoic acid (4.4 g) and concentrated sulphuric acid (2 ml) in absolute ethanol (50 ml) was refluxed for 5 h. then, evaporated to dryness. Aqueous sodium bicarbonate (8%, 50 ml) was added, the mixture extracted with ether (2×100 ml) and the ethereal extracts dried (Na2SO4). Evaporation of the ether and distillation of the residual oil (150°/0.06 mm) gave the title compound (4.3 g).

reactant | 3-(3-quinolinyl)propanoic acid | 4.4 g | N1=CC(=CC2=CC=CC=C12)CCC(=O)O | C12H11NO2
reactant | sulphuric acid | 2 ml | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 50 ml | C(C)O | C2H6O
product | 3(3-Quinolinyl)propanoic acid, ethyl ester | 4.3 g | N1=CC(=CC2=CC=CC=C12)CCC(=O)OCC | C14H15NO2
